US09029405B2
Step 3: tert-butyl N-[2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-cyanophenyl)ethyl]-D-alaninate
To a solution of tert-butyl N-[1-(4-cyanophenyl)-2-hydroxyethyl]-D-alaninate (2 g, 0.0068 mol) in DCM (30 ml) were added imidazole (0.92 g, 0.0136 mol) and tert-Butyldimethylsilylchloride (1.25 g, 0.0082 mol) at RT. The reaction mixture was stirred at RT for 6 h and portioned between DCM and water, separated the layer and concentrated under reduced pressure. The crude material was purified by column chromatography using petroleum ether and ethyl acetate (80:20) as an eluent to afford (2 g, 74%) of the title compound as brown oil. 1H NMR: (DMSO-d6, 400 MHz) δ 7.80-7.77 (m, 2H), 7.53-7.50 (m, 2H), 4.86-4.85 (t, J=3.9 Hz, 1H), 3.17-3.13 (m, 1H), 2.61-2.55 (m, 1H), 1.95-1.89 (m, 1H), 1.39 (s, 9H), 1.09-1.07 (d, J=7.1 Hz, 3H), 0.80 (s, 9H), 0.04 (s, 3H), −0.12 (s, 3H). LC/MS (Method A): 405.3 (M+H)+. HPLC (Method A) Rt 5.13 min. (Purity: 73.7%).

reactant | tert-butyl N-[1-(4-cyanophenyl)-2-hydroxyethyl]-D-alaninate | 0.0068 mol, 2 g | C(#N)C1=CC=C(C=C1)C(CO)N[C@H](C)C(=O)OC(C)(C)C | C16H22N2O3
reactant | imidazole | 0.0136 mol, 0.92 g | N1C=NC=C1 | C3H4N2
reactant | tert-Butyldimethylsilylchloride | 0.0082 mol, 1.25 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[2-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-cyanophenyl)ethyl]-D-alaninate | 2 g, 74% | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C#N)N[C@H](C)C(=O)OC(C)(C)C | C22H36N2O3Si
